US08236823B2
To 2-chloronicotinonitrile (140 mg, 1.00 mmol) and 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide (80 mg, 0.30 mmol) was added isopropanol (0.8 mL) and TFA (12 drops). The mixture was heated to 130° C. for 16 hours in a sealed tube. The cooled mixture was purified by silica gel chromatography (25% EtOAc/hexanes) to yield 3-(3-cyanopyridin-2-ylamino)-N-(3-isopropylphenyl)-4-methylbenzamide. MS m/z [M+H]+=371; Calc'd for C23H22N4O: 370.46.

reactant | 2-chloronicotinonitrile | 1.00 mmol, 140 mg | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide | 0.30 mmol, 80 mg | NC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C17H20N2O
catalyst | TFA | 12 drops | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | 0.8 mL | C(C)(C)O | C3H8O
product | 3-(3-cyanopyridin-2-ylamino)-N-(3-isopropylphenyl)-4-methylbenzamide | C(#N)C=1C(=NC=CC1)NC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C23H22N4O
